US04476308
Preparation of (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide
1.30 g of dicyclohexylcarbodiimide dissolved in 6 ml of dimethylformamide are added dropwise at 0° to 1.0 g of (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetic acid and 1.03 g of 94.7% cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine dissolved in 20 ml of dimethylformamide. The mixture is left to stir at room temperature for 4 days, treated with 0.23 g of ion-free water and evaporated in a water-jet vacuum. The residue is treated five times with toluene and in each case again evaporated. The constituents of the residue which are soluble in chloroform are chromatographed on 60 g of aluminum oxide (activity grade III, neutral). The alcohol eluate is again chromatographed on 15 g of aluminum oxide (activity grade III, neutral). The fractions which are eluted with acetonitrile and ethanol contain, according to the gas chromatogram and mass spectrum, (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide.

reactant | dicyclohexylcarbodiimide | 1.30 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetic acid | OC1C(N(CC1)CC(=O)O)=O | C6H9NO4
reactant | cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine | 1.03 g | C[C@@H]1N([C@@H](CCC1)C)CCN | C9H20N2
reactant | water | 0.23 g | O | H2O
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | C[C@@H]1N([C@@H](CCC1)C)CCNC(CN1C(C(CC1)O)=O)=O | C15H27N3O3
